US04840943
6β-Bromo-1,2β-methylenandrost-4-ene-3,17-dione (0.72 g, 1.9 mmol) is added to a vigorously stirred suspension of yellow mercury (II) oxide (0.83 g, 3.8 mmol) in pyridinium poly (hydrogen fluoride) (7 ml) at room temperature. After 3 hours the mixture is poured onto crushed ice and extracted with dichloromethane. The combined extracts are washed with water, dried and evaporated in vacuo. The residue is chromatographed twice on silica gel using benzene/ethyl ether as eluant to yield pure 6β-fluoro-1,2β-methylenandrost-4-ene-3,17-dione (0.300 g, 50%).

reactant | 6β-Bromo-1,2β-methylenandrost-4-ene-3,17-dione | 1.9 mmol, 0.72 g | Br[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C3[C@@H](C(C=C12)=O)C3)C)=O | C20H25BrO2
reactant | pyridinium poly (hydrogen fluoride) | 7 ml | C1=CC=NC=C1.F
catalyst | mercury (II) oxide | 3.8 mmol, 0.83 g | [Hg]=O
product | 6β-fluoro-1,2β-methylenandrost-4-ene-3,17-dione | 0.300 g, 50% | F[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C3[C@@H](C(C=C12)=O)C3)C)=O | C20H25FO2
